### PR TITLE
[Merged by Bors] - feat: nilpotent matrices have nilpotent trace

### PR DESCRIPTION
**Pull request by ocfnash**
Also some related results
    
Co-authored-by: damiano <adomani@gmail.com>

---

- [x] depends on: #6561

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Polynomial.lean [hunk 1]
```diff
@@ -165,8 +165,7 @@ theorem coeff_le_of_roots_le {p : F[X]} {f : F →+* K} {B : ℝ} (i : ℕ) (h1
   obtain hB | hB := lt_or_le B 0
   · rw [eq_one_of_roots_le hB h1 h2 h3, Polynomial.map_one, natDegree_one, zero_tsub, pow_zero,
       one_mul, coeff_one]
-    split_ifs <;> norm_num [h]
-    simp [‹0 = i›]
+    split_ifs with h <;> simp [h]
```
Comment (alexjbest) [inline Mathlib/Topology/Algebra/Polynomial.lean:168]: this will conflict with #6600

Comment (ocfnash) [reply Mathlib/Topology/Algebra/Polynomial.lean:168]: In a good way though: we're both proposing the same thing. I wonder if git is even smart enough enough that would not conflict.

Comment (alexjbest) [reply Mathlib/Topology/Algebra/Polynomial.lean:168]: I actually don't know, maybe it will?

File: Mathlib/Data/Polynomial/Basic.lean [hunk 2]
```diff
@@ -683,9 +683,12 @@ theorem coeff_zero (n : ℕ) : coeff (0 : R[X]) n = 0 :=
 #align polynomial.coeff_zero Polynomial.coeff_zero
 
 @[simp]
-theorem coeff_one_zero : coeff (1 : R[X]) 0 = 1 := by
-  rw [← monomial_zero_one, coeff_monomial]
-  simp
+theorem coeff_one {n : ℕ} : coeff (1 : R[X]) n = if n = 0 then 1 else 0 := by
```
Comment (eric-wieser) [inline Mathlib/Data/Polynomial/Basic.lean:686]: Making this a simp lemma seems a bit inconsistent with `coeff_X`, which is not a simp lemma. Generally simp lemmas that introduce `if`s can make the goal state unreadable if used too often.

Comment (ocfnash) [reply Mathlib/Data/Polynomial/Basic.lean:685]: OK I've dropped this `simp`.

File: Mathlib/Data/Fintype/Card.lean [hunk 3]
```diff
@@ -540,6 +540,7 @@ theorem card_pos [h : Nonempty α] : 0 < card α :=
   card_pos_iff.mpr h
 #align fintype.card_pos Fintype.card_pos
 
+@[simp]
```
Comment (ericrbg) [inline Mathlib/Data/Fintype/Card.lean:543]: I remember these sort of simp lemmas being slow in Lean3 - it may be worth making a note here to make sure that there's no performance drop here

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean [hunk 4]
```diff
@@ -272,17 +276,17 @@ open LaurentPolynomial hiding C
 
 It has some advantages over the characteristic polynomial, including the fact that it can be
 extended to infinite dimensions (for appropriate operators). -/
-lemma Matrix.reverse_charpoly (M : Matrix n n R) :
-    M.charpoly.reverse = det (1 - (X : R[X]) • C.mapMatrix M) := by
+lemma reverse_charpoly (M : Matrix n n R) :
+    M.charpoly.reverse = det (1 - (X : R[X]) • M.map C) := by
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean:280]: By now there are quite a number of results about this polynomial. I think it deserves a better name than `det_one_sub_X_smul_C`. The docstring of this lemma says that it is sometimes called "characteristic power series". So how about abstracting it into a definition called `charPowSeries`? Or possibly `charpolyRev`.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean:280]: Also, is `M.map (fun r => r • (X : R[X]))` better or worse than  ` `(X : R[X]) • M.map C`?

Comment (ocfnash) [reply Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean]: @jcommelin Thanks, now done.

@eric-wieser I have no preference (beyond small effort to make a switch) but I'm happy to switch if you prefer.

File: Mathlib/Data/Fintype/Card.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Data/Fintype/Card.lean:543]: @ericrbg I believe this is now fine but if you (or someone else) wants I can excise this change.

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean]: I have no preference either, but the fact that neither is the obvious choice isn't great for discoverability.

File: Mathlib/Data/Fintype/Card.lean (hunk 3 above)
Comment (ericrbg) [reply Mathlib/Data/Fintype/Card.lean:543]: I'll leave it, this should be a simp lemma morally

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
